US08012974B2
1-(3,3-Dimethyl-cyclohexyl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.095 g, 0.227 mmol) was dissolved in 1M HCl in acetic acid (2 mL, 2.04 mmol) and the resulting yellow solution stirred at 50° C. for 1.5 hours. The reaction mixture was diluted with 2 mL of H2O and basified with 3M NaOH. Light yellow precipitate forms. The solvent was evaporated. The yellow solid was taken up in MeOH:H2O:Et3N 8:1:1 and stirred at RT for 1 hour. The mixture was absorbed onto SiO2 and purified by SiO2 chromatography (12 g SiO2, DCM/magic (DCM:MeOH:NH4OH 60:10:1) 0-35% magic) to give 0.023 g of 1-(3,3-dimethyl-cyclohexyl)-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea as an off-white solid (35% yield).

reactant | 1-(3,3-Dimethyl-cyclohexyl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.227 mmol, 0.095 g | CC1(CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)C | C21H35N5O2Si
reactant | acetic acid | 2.04 mmol, 2 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 1M | Cl | ClH
solvent | H2O | 2 mL | O | H2O
solvent | NaOH | 3M | [OH-].[Na+]
product | 1-(3,3-dimethyl-cyclohexyl)-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea | 0.023 g, 35% yield | CC1(CC(CCC1)NC(=O)NC=1N=C2C(=NC1)NC=C2)C | C15H21N5O
